* Bandgap Reference Circuit - Kuijk CMOS
* SPICE netlist for ADS import

* === Power Supply ===
VDD VDD 0 DC 5V

* === Ideal Op-Amp (VCVS, gain=100000) ===
E_OP GATE 0 NEG POS 1E5

* === PMOS Current Mirror ===
M1 D1 GATE VDD VDD MODPMOS W=10U L=1U
M2 D2 GATE VDD VDD MODPMOS W=10U L=1U
M3 VREF GATE VDD VDD MODPMOS W=10U L=1U

* === PNP BJTs (area ratio 1:8) ===
Q1 0 0 POS GND MODPNP 1.0
Q2 0 0 NEG GND MODPNP 8.0

* === Resistors ===
R1 VDD D1 10K
R2 VDD D2 10K
R3 VREF 0 5K

* === Startup ===
I_START GATE 0 DC 1UA

* === Models ===
.MODEL MODPMOS PMOS (KP=50U VTO=-0.7 LAMBDA=0.05)
.MODEL MODPNP PNP (BF=100 IS=1E-16)

* === Analysis ===
.OP
.TEMP 27
.END
